US06562827B1
a) 2-Chloronicotinic Acid N-(3-Phenylpropan-1-ol-2-yl)amide
10.0 g of chloronicotinic acid were reacted with 9.7 g of phenylalaninol in 250 ml of CH2Cl2 in the presence of 13.0 g of EDC, 2.9 g of HOBT and 9.6 g of triethylamine analogously to Example 1c, 17.3 g (94%) of the product being obtained.

reactant | chloronicotinic acid | 10.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | phenylalaninol | 9.7 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | EDC | 13.0 g
reactant | HOBT | 2.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 9.6 g | C(C)N(CC)CC | C6H15N
product | 2-Chloronicotinic Acid N-(3-Phenylpropan-1-ol-2-yl)amide | C1(=CC=CC=C1)CC(CO)NC(C1=C(N=CC=C1)Cl)=O | C15H15ClN2O2
